US04518597
6-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one and 4-acetamido-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C16H22ClNO3
reactant | 4-acetamido-thiophenol | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | 6-[4-(4-Acetamido-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one | C(C)(=O)NC1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C24H30N2O4S
